US04839368
To a cooled (-20° C. to -15° C.) solution of diisopropylamine (4.7 g) in anhydrous tetrahydrofuran (100 ml) was added dropwise n-hexane solution (29 ml) of 1.6 N butyl lithium over a 30-minute period in a nitrogen atmosphere, and stirring was continued for 30 minutes after the mixed solution was returned to 0° C. Then the solution was cooled to -75° C. with acetone-dry ice and 15 g of 6-chloro-1-(2,4dichloro-benzoyl)-2,3-dihydro-4(1H)-quinolinone dissolved in 150 ml of anhydrous tetrahydrofuran was added dropwise over a 1-hour period. The reaction mixture was stirred for another 1 hour at -75° C., and methyl iodide (18 g) was added dropwise with stirring over a 30-minute period. The reaction mixture was then slowly warmed to 0° C. over two hour, and acidified under cooling with 2 N hydrochloric acid to be weakly acidic. The reaction mixture was poured into 300 ml of water, then shaken with ethyl acetate (500 ml). The organic layer was washed once with saturated aqueous NaCl solution (200 ml) and dried over anhydrous sodium aulfate. Ethyl acetate was removed in vacuo and the residue was subjected to silica gel column chromatography using a hexane-ethyl acetate mixture (4: 1) to obtain 6-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-3-methyl-4(1H) -quinolinone (yield 7.8 g) as white crystal.

reactant | diisopropylamine | 4.7 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.6 N | C(CCC)[Li]
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | 6-chloro-1-(2,4dichloro-benzoyl)-2,3-dihydro-4(1H)-quinolinone | 15 g | ClC=1C=C2C(CCN(C2=CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C16H10Cl3NO2
reactant | methyl iodide | 18 g | CI | CH3I
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | n-hexane | 29 ml | CCCCCC | C6H14
product | 6-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-3-methyl-4(1H) -quinolinone | yield 7.8 g | ClC=1C=C2C(C(CN(C2=CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O)C)=O | C17H12Cl3NO2
